US07045665B2
A suspension of sodium hydride (60%, 0.97g), 3-(4-bromophenyl)-1-propanol (1.0 g) and benzyl bromide (0.69 mL) in benzene (24 mL) was stirred for 7 hours under reflux. After cooling to ambient temperature, a saturated aqueous ammonium chloride solution (50 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (100 mL). The organic layer was washed with water (40 mL) and brine (40 mL), and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=20/1) to give 4-(3-benzyloxypropyl)bromobenzene (1.4 g).

reactant | sodium hydride | 0.97g | [H-].[Na+]
reactant | 3-(4-bromophenyl)-1-propanol | 1.0 g | BrC1=CC=C(C=C1)CCCO | C9H11BrO
reactant | benzyl bromide | 0.69 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | benzene | 24 mL | C1=CC=CC=C1 | C6H6
product | 4-(3-benzyloxypropyl)bromobenzene | 1.4 g | C(C1=CC=CC=C1)OCCCC1=CC=C(C=C1)Br | C16H17BrO
